US07834000B2
tert-Butyl 4-(1,2-dihydro-2-oxoquinazolin-3(4H)-yl)piperidine-1-carboxylate
To a solution of tert-butyl 4-(2-nitrobenzylamino)piperidine-1-carboxylate (13.2 g, 43.2 mmol) in THF (400 ml) was added a solution of CDI (7.7 g, 47.5 mmol) in 1:1 DCM: THF (100 ml) dropwise over 1 hour followed by stirring the reaction mixture for a further 16 hours. The reaction mixture was evaporated to give an oil that, when treated with EtOAc, precipitated the desired product. The precipitate was washed with cold EtOAc and dried to give a yellow solid (3.5 g). LC/MS (10% to 99%): M/Z (M+H)+ (obs)=332; tR=3.01.

reactant | tert-butyl 4-(2-nitrobenzylamino)piperidine-1-carboxylate | 43.2 mmol, 13.2 g | [N+](=O)([O-])C1=C(CNC2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1 | C17H25N3O4
reactant | CDI | 47.5 mmol, 7.7 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DCM | C(Cl)Cl | CH2Cl2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | tert-Butyl 4-(1,2-dihydro-2-oxoquinazolin-3(4H)-yl)piperidine-1-carboxylate | 3.5 g | O=C1NC2=CC=CC=C2CN1C1CCN(CC1)C(=O)OC(C)(C)C | C18H25N3O3
